US07943622B2
Step 4. Synthesis of tert-butyl 4-(4-methoxyphenylcarbamoyl)-3-((pyridin-3-ylamino)methyl)piperazine-1-carboxylate
4-Methoxyphenyl isocyanate (85 mg, 0.567 mmol) was added to a solution of tert-butyl 3-((pyridin-3-ylamino)methyl)piperazine-1-carboxylate (166 mg, 0.567 mmol) in CH2Cl2 (4 mL). After 1 h, the reaction mixture was concentrated under reduced pressure, and the material was purified by HPLC (10 to 90% MeCN/0.1% TFA in H2O/0.1% TFA gradient). This gave 81.7 mg (26%) of the TFA salt of the title compound as a white solid. LC-MS: RT=5.29 min, [M+H]+=442.2.

reactant | 4-Methoxyphenyl isocyanate | 0.567 mmol, 85 mg | COC1=CC=C(C=C1)N=C=O | C8H7NO2
reactant | tert-butyl 3-((pyridin-3-ylamino)methyl)piperazine-1-carboxylate | 0.567 mmol, 166 mg | N1=CC(=CC=C1)NCC1CN(CCN1)C(=O)OC(C)(C)C | C15H24N4O2
solvent | CH2Cl2 | 4 mL | C(Cl)Cl | CH2Cl2
product | tert-butyl 4-(4-methoxyphenylcarbamoyl)-3-((pyridin-3-ylamino)methyl)piperazine-1-carboxylate | COC1=CC=C(C=C1)NC(=O)N1C(CN(CC1)C(=O)OC(C)(C)C)CNC=1C=NC=CC1 | C23H31N5O4
